US07223788B2
4-(3-Oxo-3a,4,5,6-tetrahydro-3H-cyclopentapyrazol-2-yl)benzoic acid
A solution of 4-hydrazinobenzoic acid (0.3 g), ethyl-2-oxocyclopentanecarboxylate (0.31 g) and p-toluenesulfonic acid (340 mg) in ethanol (12 ml) was boiled under reflux for 12 hours. The concentrated reaction solution was purified by preparative HPLC. The isolated reaction product (as ethyl ester) was hydrolyzed by method P-a. This resulted in the product with the molecular weight of 244.25 (C13H12N2O3); MS (ESI): 245 (M+H+).

reactant | 4-hydrazinobenzoic acid | 0.3 g | N(N)C1=CC=C(C(=O)O)C=C1 | C7H8N2O2
reactant | ethyl-2-oxocyclopentanecarboxylate | 0.31 g | C(C)OC(=O)C1C(CCC1)=O | C8H12O3
reactant | p-toluenesulfonic acid | 340 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | ethanol | 12 ml | C(C)O | C2H6O
product | 4-(3-Oxo-3a,4,5,6-tetrahydro-3H-cyclopentapyrazol-2-yl)benzoic acid | O=C1N(N=C2C1CCC2)C2=CC=C(C(=O)O)C=C2 | C13H12N2O3
